Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, back pain, lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with PMH CAD (s/p BMS in ___, LCx 
Cypher ___, RCA ___, ISR RCA ___, ___ ISR ___, HTN, 
HLD, T2DM, Carotid stenosis, fibromyalgia, depression, and 
sarcoidosis who presents from home with chest and back pain of 2 
days and light headedness. Two days ago developed gradual onset 
mid/left chest pressure and upper back pain that came on at 
rest, while sitting. Has been constant for 2 days. Associated 
with some light headedness and
general malaise, but no syncope. Denies orthostatic symptoms. 
Light headedness comes on without provocation. Has a 
non-productive cough x4 days, no fevers, chills. Non-pleuritic. 
Took two tabs of SL nitro without relief. Of note ___ previous
angina symptoms involve jaw pain.
 
Past Medical History:
-CAD s/p extensive PCI: reportedly BMS in ___, LCx Cypher
___, RCA ___, ISR RCA ___, ___ ISR ___, last cath
___ without intervention. Reports typical angina = jaw pain
-HTN 
-HLD
-DM2
-Carotid stenosis s/p stents 98, 05. LICA<40% stenosis (___)
-Morbid obesity; BMI 54.6
-Depression/Anxiety
-Former heavy smoker
-?Pulm sarcoidosis: reports remote biopsy positive, treated
with steroids, currently on hydroxychloroquine 
 
Social History:
___
Family History:
Father passed away in a ___ accident.
Mother with arthritis.
Two brothers with lung cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS:  99.3  173 / 68 61 18 95 RA  
GENERAL: No acute distress, well nourished, well appearing 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated; no carotid bruits
CARDIAC: RRR, S1, S2, distant heart sounds
LUNGS: LCAB 
ABDOMEN: s, nt, nd
EXTREMITIES: no peripheral edema
SKIN: no obvious rashes in face, chest, back, or extremities;
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
VITALS: 97.9 124/73 59 18 96%RA 
GENERAL: No acute distress, well nourished, well appearing 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma. 
NECK: JVP not elevated; no carotid bruits
CARDIAC: RRR, S1, S2, ___ systolic murmur
LUNGS: Lung sounds clear bilat, no resp distress 
ABDOMEN: soft, nontender, nondistended, +bowel sounds
EXTREMITIES: no peripheral edema
SKIN: no obvious rashes in face, chest, back, or extremities;
PULSES: Distal pulses palpable and symmetric 
TELEMETRY: Sinus bradycardia, HR 50's-60's. 
 
Pertinent Results:
ADMISSION LABS:
___ 01:57PM BLOOD WBC-11.3* RBC-3.89* Hgb-11.4 Hct-35.5 
MCV-91 MCH-29.3 MCHC-32.1 RDW-13.8 RDWSD-46.0 Plt ___
___ 01:57PM BLOOD Neuts-69.3 Lymphs-18.9* Monos-8.2 Eos-2.1 
Baso-0.7 Im ___ AbsNeut-7.84* AbsLymp-2.14 AbsMono-0.93* 
AbsEos-0.24 AbsBaso-0.08
___ 01:57PM BLOOD ___ PTT-29.5 ___
___ 01:57PM BLOOD Glucose-167* UreaN-39* Creat-1.0 Na-138 
K-5.9* Cl-98 HCO3-24 AnGap-16
___ 01:57PM BLOOD cTropnT-<0.01
___ 01:57PM BLOOD Calcium-9.5 Phos-3.6 Mg-1.9
___ 01:57PM BLOOD TSH-3.9
___ 03:40PM BLOOD K-5.3*
___ 06:34PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 06:34PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-TR*
___ 06:34PM URINE RBC-4* WBC-4 Bacteri-FEW* Yeast-NONE 
Epi-8
___ 06:34PM URINE Mucous-RARE*

DISCHARGE LABS:
___ 06:40AM BLOOD WBC-6.4 RBC-3.69* Hgb-10.6* Hct-33.8* 
MCV-92 MCH-28.7 MCHC-31.4* RDW-13.9 RDWSD-46.8* Plt ___
___ 06:40AM BLOOD Neuts-55.9 ___ Monos-9.2 Eos-3.4 
Baso-0.8 Im ___ AbsNeut-3.57 AbsLymp-1.93 AbsMono-0.59 
AbsEos-0.22 AbsBaso-0.05
___ 06:40AM BLOOD Glucose-111* UreaN-34* Creat-0.7 Na-143 
K-4.5 Cl-105 HCO3-28 AnGap-10
___ 06:40AM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD Calcium-9.4 Phos-4.0 Mg-1.9

OTHER DIAGNOSTICS:
ECG ___: 
Accelerated junctional rhythm at 44 bpm with occasional sinus 
beats which are conducted. No ischemic changes.

CHEST X-RAY ___:
FINDINGS:  
AP portable upright view of the chest.  Lungs are clear. There 
is no focal 
consolidation, effusion, or pneumothorax.  A coronary stent 
projects over the 
right heart.  The cardiomediastinal silhouette is normal. Imaged 
osseous 
structures are intact.  
IMPRESSION:    
No acute intrathoracic process 

CHEST CTA ___:
FINDINGS:  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level without filling defect to indicate a 
pulmonary embolus. No evidence of aortic dissection is seen.  
Atherosclerotic calcifications are seen along the aorta.  There 
are extensive coronary artery calcifications.  
Cardiomegaly is mild.  Aortic valve calcifications are also 
seen.  The 
superior portion of the aortic arch and origins of the arch 
vessels are not well evaluated due to streak artifact.  No 
pericardial effusion is seen. 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
PLEURAL SPACES: No pleural effusion or pneumothorax. 
LUNGS/AIRWAYS: The lungs and small airways are not well 
evaluated due to 
expiratory phase imaging.  Relative ground-glass opacity 
bilaterally may 
relate to expiratory phase of scan.  No definite focal 
consolidation.  The 
airways are patent to the level of the segmental bronchi 
bilaterally.   
ABDOMEN: Partially imaged is 3.5 x 4.2 cm left adrenal nodule, 
which measured 
3.4 x 4.3 cm on ___ and previously characterized as 
an adenoma. Included portion of the upper abdomen is otherwise 
unremarkable focus of arterial enhancement in the liver on 
series 2, image 84 is nonspecific, may be vascular, flash 
filling hemangioma, or perfusion anomaly, and was also present 
___.  A small to moderate hiatal hernia is noted. 
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
IMPRESSION:    
No evidence of pulmonary embolism or aortic dissection.  
Relative bilateral pulmonary ground-glass opacity may relate to 
expiratory 
phase of scan.  No definite focal consolidation.  
Atherosclerotic changes including aortic, aortic valve, and 
coronary artery calcifications. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: 
___ with history of CAD (s/p extensive PCI, LCx ___, RCA ___ 
w/
ISR RCA ___, ___ ___, HTN, DM2, HLD, carotid stenosis,
sarcoidosis, p/w 2 days of chest pain, back pain, light
headedness, found to have bradycardia and accelerated junctional
escape rhythm.

# Symptomatic bradycardia
# Accelerated junctional escape rhythm: Has 2 days of 
intermittent light headedness that come on without provocation, 
found to be brady to high ___ in ED. Likely has age 
related sinus node dysfunction exacerbated by double nodal 
blockade. Resolved and returned to ___ with HR 50's-___s. EP 
consulted and signed off.
- Stop diltiazem
- Continue carvedilol 25 mg BID

# Chest pressure: Now resolved. Possibly secondary to ___ 
etiology from coughing. Less likely ACS given 2 days of constant 
pain, and not consistent with prior angina which was jaw pain. 
A/w back pain but CTA negative for dissection and PE. Troponins 
negative x 2. 

# Leukocytosis: Now resolved with WBC 6.4. Likely stress 
response to above. Has cough, but no infiltrate on CXR, and no 
other signs of symptoms of infection. UA with bacteria but no 
nitrates, culture pending.
- No treatment for UA as she is asymptomatic, follow urine 
culture as outpatient. 

# Hyperkalemia: K 5.9 on arrival, now 4.5 after holding 
losartan.
- Reduce losartan to 50 mg daily

# Microscopic hematuria:
- Should get further evaluation with PCP as outpatient

# Hypertension: BP 120's-140's/___-______s today. Patient has home 
BP monitor, concern for worsening hypertension with reducing 
losartan and stopping diltiazem. 
- Med changes as noted above
- Patient instructed to check BP daily at home and bring log of 
results and monitor to follow up appointment. 

# DISPO: Discharge home today with ___ for medication teaching 
and management.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Diltiazem Extended-Release 300 mg PO DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Omeprazole 40 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Venlafaxine XR 225 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 
9. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
10. Hydroxychloroquine Sulfate 400 mg PO DAILY 
11. Gabapentin 100-200 mg PO BID:PRN pain 
12. Gabapentin 200 mg PO QHS 
13. BusPIRone 5 mg PO BID 
14. Hyzaar (losartan-hydrochlorothiazide) 100-25 mg oral DAILY 
15. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
Take in the morning.  
2.  Hydrochlorothiazide 25 mg PO DAILY 
Take in the afternoon.  
3.  Losartan Potassium 50 mg PO QHS 
Take at bedtime.  
4.  Aspirin 81 mg PO DAILY 
Take in the morning.  
5.  BusPIRone 5 mg PO BID 
Take in the morning and at bedtime.  
6.  Carvedilol 25 mg PO BID 
Take in the morning and at bedtime.  
7.  Clopidogrel 75 mg PO DAILY 
Take in the morning.  
8.  Gabapentin 100-200 mg PO BID:PRN pain  
9.  Gabapentin 200 mg PO QHS 
Take at bedtime.  
10.  Hydroxychloroquine Sulfate 400 mg PO DAILY 
Take in the morning.  
11.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
Take in the morning.  
12.  MetFORMIN (Glucophage) 500 mg PO DAILY 
Take in the morning.   
13.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
14.  Rosuvastatin Calcium 40 mg PO QPM 
Take at bedtime.  
15.  Venlafaxine XR 225 mg PO DAILY 
Take in the morning.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bradycardia
Accelerated junctional rhythm
Atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane). 
 
PHYSICAL EXAM: 
VITALS: 97.9 124/73 59 18 96%RA  
GENERAL: No acute distress, well nourished, well appearing  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 

pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated; no carotid bruits 
CARDIAC: RRR, S1, S2, ___ systolic murmur 
LUNGS: Lung sounds clear bilat, no resp distress  
ABDOMEN: soft, nontender, nondistended, +bowel sounds 
EXTREMITIES: no peripheral edema 
SKIN: no obvious rashes in face, chest, back, or extremities; 
PULSES: Distal pulses palpable and symmetric  
TELEMETRY: Sinus bradycardia, HR 50's-60's.  

 
Discharge Instructions:
    You were admitted to ___ after an evaluation of your 
symptoms of chest pain and lightheadedness revealed an abnormal 
slow heart rhythm. You did not have a heart attack. This rhythm 
resolved after stopping your diltiazem. Your symptoms may have 
been related to how you were taking your medications at home. 
Taking them on a more organized schedule throughout the day may 
help you feel better and avoid unwanted side-effects. Please 
refer to the list in this paperwork for any changes that were 
made to your medications and continue to take your medications 
as directed.

    Since we decreased some blood pressure medications, please 
check your blood pressure and heart rate once a day and keep a 
log of this information. Bring your log and blood pressure 
machine to your follow up appointment. You should follow up with 
Dr. ___ ___ weeks.

    If you have any urgent questions or concerns related to this 
admission and you can't reach your primary cardiologist, you can 
call the ___ HEARTLINE ___ at ___ to speak to a 
cardiac nurse practitioner or cardiologist. 

    It has been a pleasure to participate in your care and we 
wish you the best with your health.

 -Your ___ Cardiac Care Team
 
Followup Instructions:
___